US05681833
1. N-Methyl-3-nitrophenyl cyanamide
To a cooled (-20° C.) and stirred solution of 3-nitrophenyl cyanamide (1 g) in a mixture of anhydrous tetrahydrofuran and anhydrous dimethylformamide (3:1; 20 ml) was added sodium hydride (60% dispersion in oil; 294 mg) in one portion, under a nitrogen atmosphere. After 8 minutes of stirring at -20° C., methyl iodide (1.14 ml) was added and the red mixture was allowed to warm to room temperature and diluted with anhydrous dimethylformamide (5 ml). After a further 45 minutes of stirring, water (75 ml; CAUTION| hydrogen evolution) was added and products were extracted with ethyl acetate (2×100 ml). The combined organic phases were washed with brine (1×50 ml), dried (MgSO4) and concentrated. The remaining solid was dissolved in ethyl acetate (30 ml) and hexane (100 ml) was added to give the title compound (880 mg) as fine needles; δH (250 MHz, DMSO-d6) 7.98 (1H, m, Ar--H), 7.85 (1H,t, J=2.2 Hz, Ar--H), 7.73 (1H, t, J=7.7 Hz, Ar--H), 7.60 (1H, m, Ar--H), 3.45 (3H, s, --NMe);m/z (CI) 177 (M-).

reactant | 3-nitrophenyl cyanamide | 1 g | [N+](=O)([O-])C=1C=C(C=CC1)NC#N | C7H5N3O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium hydride | 294 mg | [H-].[Na+]
reactant | methyl iodide | 1.14 ml | CI | CH3I
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 75 ml | O | H2O
product | N-Methyl-3-nitrophenyl cyanamide | 880 mg | CN(C#N)C1=CC(=CC=C1)[N+](=O)[O-] | C8H7N3O2
